US08729263B2
To a mixture of 1-(4-bromo-3-methoxyphenyl)-3-nitro-1H-pyrazole (2.3 g, 7.72 mmol) in DCM (24 mL) and acetic acid (6.18 mL, 108 mmol) was added zinc dust (2.52 g, 38.6 mmol) at 0° C. The reaction mixture was stirred at 0° C. to RT overnight. The reaction mixture was filtered through celite, rinsed with EtOAc and concentrated in vacuo. The residue was purified by silica chromatography (EtOAc/heptane=10:90 to 50:50) to give a white foam which was dissolved in 6 mL of toluene, concentrated and dried to give 1.9 g of 1-(4-bromo-3-methoxyphenyl)-1H-pyrazol-3-amine as a white powder.

reactant | 1-(4-bromo-3-methoxyphenyl)-3-nitro-1H-pyrazole | 7.72 mmol, 2.3 g | BrC1=C(C=C(C=C1)N1N=C(C=C1)[N+](=O)[O-])OC | C10H8BrN3O3
reactant | acetic acid | 108 mmol, 6.18 mL | C(C)(=O)O | C2H4O2
solvent | DCM | 24 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | zinc | 38.6 mmol, 2.52 g | [Zn] | Zn
product | 1-(4-bromo-3-methoxyphenyl)-1H-pyrazol-3-amine | 1.9 g | BrC1=C(C=C(C=C1)N1N=C(C=C1)N)OC | C10H10BrN3O
